US06747023B1
2-(2-Bromoethyl)-1-(tert-butoxycarbonyl)-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine
In methylene chloride (50 ml) was dissolved 1-(tert-butoxycarbonyl)-4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-(2-hydroxylethyl)piperazine (1.00 g), followed by the addition of carbon tetrabromide (1.46 g) and triphenylphosphine (1.15 g). The resulting mixture was stirred at room temperature for 30 minutes. After the addition of a saturated aqueous solution of sodium sulfite, the organic layer was collected from the mixture. The organic layer was dried over anhydrous sodium sulfate and then distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column [hexane:ethyl acetate=10:1 to 6:1], whereby the title compound (990 mg) was obtained as a colorless foam.

reactant | 1-(tert-butoxycarbonyl)-4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-(2-hydroxylethyl)piperazine | 1.00 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)CCO | C21H27ClN2O5S
reactant | carbon tetrabromide | 1.46 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 1.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-Bromoethyl)-1-(tert-butoxycarbonyl)-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | BrCCC1N(CCN(C1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)C(=O)OC(C)(C)C | C21H26BrClN2O4S
